US20010041799A1
To a mixture of N-[(2-chloro-6-methylphenyl)thioxomethyl]-4-nitro-L-phenylalanine methyl ester (3.86 mmol, 1.52 g), zinc dust (˜325 mesh, 39.0 mmol, 2.55 g, 10 equiv.) and ammonium chloride (58.0 mmol, 3.09 g, 15 equiv.) was added methanol (50 mL) and water (25 mL) at room temperature. After addition of water, an exothermic reaction ensued and the temperature rose to between 45 and 50 ° C. After the suspension was stirred for 2 h at a bath temperature of 50-60° C., TLC analysis of the mixture indicated the absence of starting material. The reaction mixture was filtered through a pad of celite and the filter cake was washed with methanol (50 mL) and water (40 mL). The filtrate was concentrated under vacuum to remove methanol and the product was extracted into ethyl acetate (2×50 mL). The combined extracts were washed with brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo to give 1.3 g (92%) of 4-amino-N-[(2-chloro-6-methylphenyl)thioxomethyl]-L-phenylalanine methyl ester as an amorphous yellow solid, which was used directly for next step. HRMS: Obs. mass, 363.0932. Calcd. mass, 363.0934 (M+H).

reactant | N-[(2-chloro-6-methylphenyl)thioxomethyl]-4-nitro-L-phenylalanine methyl ester | 3.86 mmol, 1.52 g | COC([C@@H](NC(=S)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H17ClN2O4S
reactant | ammonium chloride | 58.0 mmol, 3.09 g, 15 equiv. | [Cl-].[NH4+]
reactant | methanol | 50 mL | CO | CH4O
catalyst | zinc | 39.0 mmol, 2.55 g, 10 equiv. | [Zn] | Zn
solvent | water | O | H2O
solvent | water | 25 mL | O | H2O
product | 4-amino-N-[(2-chloro-6-methylphenyl)thioxomethyl]-L-phenylalanine methyl ester | 1.3 g, 92% | COC([C@@H](NC(=S)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)N)=O | C18H19ClN2O2S
